US04986846
In 200 ml of DMF, 41.4 g of N-hydroxyphthalimide and 18 g of potassium carbonate were suspended. Fifty grams of cinnamyl bromide were added, followed by stirring at 120° C. for 5 hours. After completion of the reaction, the reaction mixture was cooled and then poured into about 500 ml of water. Crystals thus precipitated were collected by filtration, dried and then recrystallized from a mixed solvent of acetone and isopropyl ether, thereby obtaining 41.9 g of N-cinnamyloxyphthalimide.

reactant | N-hydroxyphthalimide | 41.4 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | cinnamyl bromide | Fifty grams | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | water | about 500 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-cinnamyloxyphthalimide | 41.9 g, Yield: 59.1% | C(C=CC1=CC=CC=C1)ON1C(C=2C(C1=O)=CC=CC2)=O | C17H13NO3
